US05236952
5.5 g of α-chloro-2-fluoro-3,4-dimethoxytoluene and 4.05 g of potassium acetate are stirred at 80° for 25 hours in 50 ml of dimethylformamide. The reaction mixture is subsequently poured into 150 ml of ice-water and extracted with ether. The ether phases are washed with sodium chloride solution, dried over sodium sulfate and evaporated, 2-fluoro-3,4-dimethoxybenzyl acetate is obtained as an oil.

reactant | α-chloro-2-fluoro-3,4-dimethoxytoluene | 5.5 g | ClCC1=C(C(=C(C=C1)OC)OC)F | C9H10ClFO2
reactant | potassium acetate | 4.05 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-fluoro-3,4-dimethoxybenzyl acetate | C(C)(=O)OCC1=C(C(=C(C=C1)OC)OC)F | C11H13FO4
